US08440652B2
A solution of 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile (1.53 g, 4.86 mmol), Pd(PPh3)4 (271 mg, 0.24 mmol), 2.0 M aq. Na2CO3 (4.9 mL) and the 5-bromopyrazin-2-amine (846 mg, 4.86 mmol) were combined in n-BuOH (20 mL). The slurry was degassed for 10 min under a bubbling stream of anhydrous nitrogen, then heated at 90° C. for 2 h. The resulting mixture was filtered, concentrated and purified by flash chromatography on silica (1-5% MeOH/DCM eluent) to provide 4-(4-(5-aminopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile (1.08 g, 79% yield).

reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | 4.86 mmol, 1.53 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CCOCC1)C#N)C | C18H24BNO3
reactant | Na2CO3 | 2.0 M, 4.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-bromopyrazin-2-amine | 4.86 mmol, 846 mg | BrC=1N=CC(=NC1)N | C4H4BrN3
solvent | n-BuOH | 20 mL | CCCCO | C4H10O
catalyst | Pd(PPh3)4 | 0.24 mmol, 271 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-(5-aminopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | 1.08 g, 79% yield | NC=1N=CC(=NC1)C1=CC=C(C=C1)C1(CCOCC1)C#N | C16H16N4O
